US09226922B2
(R)-Ethyl 3-(benzyloxy)-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridine-1-carboxylate (177.2 mg, 0.386 mmol) and Pd/C (4.10 mg, 0.039 mmol) were stirred in EtOAc (3.86 mL), under a balloon of hydrogen gas for 72 h. The reaction mixture was filtered through Celite, eluting with EtOAc. The filtrate was concentrated in vacuo to afford (R)-ethyl 3-oxo-6-(3-(1-phenylethyl)ureido)-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate, which was carried onto the next step without further purification. MS ESI calc'd. For C18H19N5O4 [M+1]+370. found 370.

reactant | (R)-Ethyl 3-(benzyloxy)-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridine-1-carboxylate | 0.386 mmol, 177.2 mg | C(C1=CC=CC=C1)OC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(=O)OCC | C25H25N5O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 3.86 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.039 mmol, 4.10 mg | [Pd] | Pd
product | (R)-ethyl 3-oxo-6-(3-(1-phenylethyl)ureido)-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate | O=C1NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(=O)OCC | C18H19N5O4
